US09302984B2
tert-Butyl-4-hydroxycyclohexylcarbamate
trans-4-Aminocyclohexanol hydrochloride (13.5 g) was suspended in dry DCM (100 mL) and cooled to 5-10° C. To this, BOC anhydride (24.6 mL, 23.32 g, 106.8 mmol) was added drop-wise over 15 minutes. The reaction mixture was stirred under nitrogen for 15 minutes. Triethylamine (37.2 mL) was added and the mixture was stirred overnight, allowing the temperature to rise to room temperature. The solution was diluted with water (100 mL) and extracted with DCM (2×50 mL), organic layer dried over Na2SO4. Evaporation of the solvents gave the title compound as a colorless solid (17.1 g, quantitative).

reactant | trans-4-Aminocyclohexanol hydrochloride | 13.5 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | BOC anhydride | 106.8 mmol, 24.6 mL, 23.32 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Triethylamine | 37.2 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | tert-Butyl-4-hydroxycyclohexylcarbamate | 17.1 g | C(C)(C)(C)OC(NC1CCC(CC1)O)=O | C11H21NO3
